US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-phthalimidomethyl-1,3-thiazol-2-yl)azetidine (1.52 g, 2.57 mmol) (obtained as described in Reference Example 68(1)) in anhydrous tetrahydrofuran (76 ml) was added a 1.0 M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (3.29 ml, 3.29 mmol) in an ice bath and the mixture was stirred in an ice bath for 1 hour. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (864 mg, yield 100%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-phthalimidomethyl-1,3-thiazol-2-yl)azetidine | 2.57 mmol, 1.52 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C31H31N3O3SSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 76 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.29 mmol, 3.29 ml | O1CCCC1 | C4H8O
product | 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 864 mg, yield 100% | C1(C=2C(C(N1CC=1N=C(SC1)N1CC(C1)O)=O)=CC=CC2)=O | C15H13N3O3S
